2158-01-08 09:54:00 Physician Attending Progress Note
Chief Complaint: Altered Mental Status
   Pneumonia
   Hypercalcemia
   Metastatic Renal Cell Cancer
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2158-1-7**] 04:30 PM
   head without/with contrast--final read is pending
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2158-1-7**] 08:28 AM
   Levofloxacin - [**2158-1-7**] 09:20 AM
   Ceftriaxone - [**2158-1-7**] 06:33 PM
   Vancomycin - [**2158-1-8**] 08:03 AM
   Metronidazole - [**2158-1-8**] 09:29 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2158-1-8**] 12:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-1-8**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.4
C (95.8
   HR: 83 (83 - 130) bpm
   BP: 101/69(76) {90/55(66) - 146/87(91)} mmHg
   RR: 19 (17 - 27) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 8 (6 - 8)mmHg
   Total In:
                                                                 10,974 mL
                                                                  2,999 mL
   PO:
                                                                    450 mL
                                                                    220 mL
   TF:
   IVF:
                                                                  3,524 mL
                                                                  2,779 mL
   Blood products:
   Total out:
                                                                    805 mL
                                                                    254 mL
   Urine:
                                                                    805 mL
                                                                    254 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 10,169 mL
                                                                  2,745 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///19/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   164 K/uL
   87 mg/dL
   0.7 mg/dL
   19 mEq/L
   4.1 mEq/L
   21 mg/dL
   104 mEq/L
   138 mEq/L
   30.8 %
   19.4 K/uL
        [image002.jpg]
                             [**2158-1-7**]  06:50 AM
                             [**2158-1-7**]  03:15 PM
                             [**2158-1-8**]  03:48 AM
   WBC
   18.7
   19.4
   Hct
   30.8
   30.8
   Plt
   160
   164
   Cr
   0.7
   0.8
   0.7
   Glucose
   85
   78
   87
   Other labs: PT / PTT / INR:14.3/28.0/1.2, Lactic Acid:4.3 mmol/L,
   Ca++:10.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Imaging: no CXR this morning
   Microbiology: No new culture results
   Assessment and Plan
   48 yo male with widely metastatic renal cell cancer and has had
   fixation of spinal instability secondary to mets and is s/p
   nephrectomy.  In the setting of consideration of chemotherapy options
   patient admitted to ICU with altered mental status.  He comes in with
   consideration of possible CNS mets, metabolic derangements, sepsis also
   considered.  The extent of his metastatic disease to lung is quite
   extensive and would not be unexpected to be associated with significant
   hypoxemia--radiographically it is difficult to determine the absence or
   presence of pneumonia.
   1)Altered Mental Status-The differential remains the same.  Given
   relative improvement with patient oriented clearly this morning
   hypercalcemia may well be primary driver.
   -Follow Up MRI findings
   -Continue with Ca++ rx
   -avoid sedating medications
   -follow exam
   2)Lactic Acidosis-Do not see evolution of significant sepsis over first
   24 hours.  Is likely related to tumor burden but in the setting of
   possible pneumonia and significant co-morbid disease and bandemia will
   continue Rx.
   -Vanco/Levofloxacin/Flagyl for possible pneumonia
   -Sputum GS C+S if obtained
   3)Atrial Fibrillation-
   Digoxin
   4)Hypercalcemia--
   -Improved to 10.4
   -Pamidronate started
   -Lasix today
   5)Renal Cell Ca-
   -Medical oncology input essential to aid in patient and family decision
   making
   -Question is possible start of systemic chemotherapy
this may be a
   challenge in the setting of acute illness.  The only confounding issue
   is that it is unclear how truly independent of his underlying
   malignancy his current clinical decline is.
   -Consult to oncology today for eval.
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CANCER (MALIGNANT NEOPLASM), BONE
 CANCER (MALIGNANT NEOPLASM), RENAL (KIDNEY)
 CANCER (MALIGNANT NEOPLASM), LUNG
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2158-1-7**] 04:27 AM
   20 Gauge - [**2158-1-7**] 09:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes